US07790709B2
Preparation of (E)-3-(6-Amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-naphthalen-2-ylmethyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(6-amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-naphthalen-2-ylmethyl-amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (51 mg, 57%) was prepared as a light, yellow solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.36-8.25 (m, 2H), 7.52-6.98 (m, 4H), 6.40-6.15 (m, 1H), 5.05-4.84 (m, 2H), 4.20 (s, 2H), 3.74-3.67 (m, 3H), 3.58-5.30 (m, 8H), 3.10-2.73 (m, 6H); MS (ESI) m/e 401 (M+H)+.

reactant | (E)-3-(6-amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-naphthalen-2-ylmethyl-amine | CNCC1=CC2=CC=CC=C2C=C1 | C12H13N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-naphthalen-2-ylmethyl-acrylamide hydrochloride | 51 mg, 57% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC1=CC2=CC=CC=C2C=C1)C)CN1CCCC1 | InChI=1S/C25H28N4O.ClH/c1-28(17-20-8-10-21-6-2-3-7-22(21)15-20)24(30)11-9-19-14-23(25(26)27-16-19)18-29-12-4-5-13-29;/h2-3,6-11,14-16H,4-5,12-13,17-18H2,1H3,(H2,26,27);1H/b11-9+;
